US04259261
Preparation of (2,4-dinitro) phenoxypropanol
To a mixture of 0.2 mol (40.5 g) of 2,4-dinitro chlorobenzene and of 1.12 mol (81 cm3) of 1,3-propanediol, heated to 90° C. is added in 30 minutes 1.1 mol (81 cm3) of 1,3-propanediol in 20 cm3 of 10 N sodium hydroxide.

reactant | 2,4-dinitro chlorobenzene | 0.2 mol, 40.5 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | 1,3-propanediol | 1.12 mol, 81 cm3 | C(CCO)O | C3H8O2
reactant | 1,3-propanediol | 1.1 mol, 81 cm3 | C(CCO)O | C3H8O2
reactant | sodium hydroxide | 10 N, 20 cm3 | [OH-].[Na+]
product | (2,4-dinitro) phenoxypropanol | [N+](=O)([O-])C1=C(OC(CC)O)C=CC(=C1)[N+](=O)[O-] | C9H10N2O6
